US07220856B2
Preparation of (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic Acid, Methyl Ester
As described for example 213, (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid-methyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the title product as a light yellow solid. LC-MS: 475 (M++1). 1H NMR (CDCl3): δ 1.45–2.05 (m, 5H), 2.15 (m, 1H), 3.12 (m, 4H), 3.42 (dd, 1H), 3.66 (m, 4H), 3.90 (s, 3H), 4.45 (m, 1H), 4.75˜4.85 (m, 3H), 5.95 (d, 1H), 6.15 (s, 1H), 7.19 (dd, 1H), 7.62 (d, 1H), 7.74 (d, 1H).

reactant | (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid-methyl ester | COC(=O)N1C([C@@H](CCCC1)NC(=O)OC(C)(C)C)=O | C13H22N2O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic Acid, Methyl Ester | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C(=O)OC)=O)Cl | C22H27ClN6O4
